US09370522B2
The diaryl product was obtained using the same synthetic methods as shown in Example 25, step 5, using 2-(4-methoxyphenyl)acetic acid (5.0 g, 30.1 mmol, 1.00 equiv) and anisole (16 g, 148.1 mmol, 5.00 equiv) as reactants. Purification via silica gel column (ethyl acetate/petroleum ether (1:10)) afforded 4.0 g (52%) of 1,2-bis(4-methoxyphenyl)ethanone as a white solid.

reactant | 2-(4-methoxyphenyl)acetic acid | 30.1 mmol, 5.0 g, 1.00 equiv | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | anisole | 148.1 mmol, 16 g, 5.00 equiv | C1(=CC=CC=C1)OC | C7H8O
product | 1,2-bis(4-methoxyphenyl)ethanone | 4.0 g, 52% | COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OC)=O | C16H16O3
